US07906546B2
5 g (25 mmol) of potassium 2-ethoxycarbonyl-2-(1-ethoxy-ethylideneamino)-ethenolate were completely dissolved in 15 mL acetic acid at RT, and then the solution was heated to 110° C. overnight. After cooling down, 100 mL EtOAc were added and the solution is neutralized with saturated NaHCO3 solution. The organic phase was separated, dried over Na2SO4, filtered and evaporated. Column chromatography on silica gel (heptane/EtOAc 1:2) yielded 1.74 g (45%) of 2-methyl-oxazole-4-carboxylic acid ethyl ester as an yellow oil, MS: 156 (MH+).

reactant | potassium 2-ethoxycarbonyl-2-(1-ethoxy-ethylideneamino)-ethenolate | 25 mmol, 5 g | C(C)OC(=O)C(=C[O-])N=C(C)OCC.[K+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-methyl-oxazole-4-carboxylic acid ethyl ester | 1.74 g, 45% | C(C)OC(=O)C=1N=C(OC1)C | C7H9NO3
